US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-5-methyl-2-(2-thienyl)oxazole to give 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-5-methyl-2-(2-thienyl)oxazole. The yield was 84%. Recrystallization from acetone-isopropyl ether gave colorless prisms, mp 102-103° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-5-methyl-2-(2-thienyl)oxazole | ClCC=1N=C(OC1C)C=1SC=CC1 | C9H8ClNOS
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-5-methyl-2-(2-thienyl)oxazole | yield was 84% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2C)C=2SC=CC2)C=C1 | C21H21N3O2S
